US06150373
A mixture of 2.55 g (6.6 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 7 g (34 mmol) of 4-[2-(diethylamino)ethoxy]-aniline was heated at 180° C. for 35 minutes and then cooled. The residue was chromatographed on silica gel using firstly 5% methanol in dichloromethane and then dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined and evaporated. The residue was evaporated with toluene and then dissolved in 150 ml of dichloromethane. The solution was washed with 100 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate and evaporated to give 1.18 g (35%) of crude product. Purification by crystallisation from cyclohexane/ethyl acetate gave 310 mg (9%) of pure 3-(2,6-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 123-124° C.

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 6.6 mmol, 2.55 g | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
reactant | 4-[2-(diethylamino)ethoxy]-aniline | 34 mmol, 7 g | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
product | 3-(2,6-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 310 mg, 9% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C)=O | C25H28Cl2N6O2
